US05965743
3.0 g of 4-(3-phenylpropyloxy)benzyl alcohol were dissolved in 30 ml of chloroform, and 1.77 g of thionyl chloride were further fed dropwise to the resultant solution. The solution was then stirred for 1 hour at room temperature. After completed the reaction, the solution reacted was poured into ice-water and extracted with chloroform. The organic layer resulted was dried with anhydrous magnesium sulfate, and the solvent used was distillated under reduced pressure, thereby affording 3.2 g of 4-(3-phenylpropyloxy)benzylchloride.

reactant | 4-(3-phenylpropyloxy)benzyl alcohol | 3.0 g | C1(=CC=CC=C1)CCCOC1=CC=C(CO)C=C1 | C16H18O2
reactant | thionyl chloride | 1.77 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-phenylpropyloxy)benzylchloride | 3.2 g | C1(=CC=CC=C1)CCCOC1=CC=C(CCl)C=C1 | C16H17ClO
